US08563575B2
2,2,2-Trifluoroethyl trifluoromethanesulfonate (0.144 mL) was added to a solution of 3-[4-(benzyloxy)phenyl]-1-ethyl-6-hydroxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (300 mg) and potassium carbonate (229 mg) in DMF (5 ml) at room temperature. The mixture was stirred at ambient temperature under a dry atmosphere (CaCl2 tube) for 3 h. The mixture was quenched with water at room temperature and extracted with AcOEt. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 15%-50% AcOEt in hexane) to give 3-[4-(benzyloxy)phenyl]-1-ethyl-6-(2,2,2-trifluoroethoxy)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (308 mg) as colorless oil.

reactant | 2,2,2-Trifluoroethyl trifluoromethanesulfonate | 0.144 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-hydroxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)O)CC)=O | C21H19N3O3
reactant | potassium carbonate | 229 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-(2,2,2-trifluoroethoxy)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 308 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)OCC(F)(F)F)CC)=O | C23H20F3N3O3
